US05124322
4-Methoxy-2-(4-methoxybenzylthio)-N,N-dimethylbenzylamine (D14)
A 1.6M solution of n-butyl lithium in hexane (2.7 ml, 4 mmol) was added at room temperature to a solution of 4-methoxy-N,N-dimethylbenzylamine (0.67 g, 4 mmol) in dry ether (30 ml). The solution was kept under nitrogen for 18 h, then a solution of 4-methoxybenzyl disulphide (1.25 g, 4 mmol) in dry ether (50 ml) was added over 2 min. After 10 min water was added. The ethereal layer was extracted with 2N hydrochloric acid (2×10 ml). The acidic solution was washed with ether, then was made basic with 10% sodium hydroxide, and was extracted with ether. The organics were washed with water and brine, then were dried (K2CO3) and evaporated to leave an oil. Column chromatography on silica gel (30 g), eluting with ethyl acetate gave the title compound as an oil (583 mg, 46%).

reactant | n-butyl lithium | C(CCC)[Li]
reactant | hexane | 4 mmol, 2.7 ml | CCCCCC | C6H14
reactant | 4-methoxy-N,N-dimethylbenzylamine | 4 mmol, 0.67 g | COC1=CC=C(CN(C)C)C=C1 | C10H15NO
reactant | 4-methoxybenzyl disulphide | 4 mmol, 1.25 g | COC1=CC=C(CSSCC2=CC=C(C=C2)OC)C=C1 | C16H18O2S2
solvent | ether | 30 ml | CCOCC | C4H10O
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | water | O | H2O
product | 4-Methoxy-2-(4-methoxybenzylthio)-N,N-dimethylbenzylamine | 583 mg, 46% | COC1=CC(=C(CN(C)C)C=C1)SCC1=CC=C(C=C1)OC | C18H23NO2S
